US07820658B2
Benzaldehyde (15 g, 141.3 mmol, 1 eq), guanidine carbonate (25.47 g, 141.3 mmol, 1 eq), ethyl cyanoacetate (15.99 g, 141.3 mmol, 1 eq) and anhydrous sodium acetate (11.59 g, 141.3 mmol, 1 eq) were added to 300 ml anhydrous pyridine and refluxed for 4 hours. The reaction was then cooled to room temperature and the solvent was removed under reduced pressure. The brown residue was triturated with 400 ml aqueous acetic acid (30%) and filtered off. The yellow solid was then triturated with 300 ml diethyl ether and filtered off to yield 2-amino-6-oxo-4-phenyl-1,6-dihydro-pyrimidine-5-carbonitrile as an off-white solid.

reactant | Benzaldehyde | 141.3 mmol, 15 g, 1 eq | C(C1=CC=CC=C1)=O | C7H6O
reactant | guanidine carbonate | 141.3 mmol, 25.47 g, 1 eq | C(O)(O)=O.NC(=N)N
reactant | ethyl cyanoacetate | 141.3 mmol, 15.99 g, 1 eq | C(#N)CC(=O)OCC | C5H7NO2
reactant | sodium acetate | 141.3 mmol, 11.59 g, 1 eq | C(C)(=O)[O-].[Na+]
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 2-amino-6-oxo-4-phenyl-1,6-dihydro-pyrimidine-5-carbonitrile | NC=1NC(C(=C(N1)C1=CC=CC=C1)C#N)=O | C11H8N4O
